US06753331B1
The requisite 1-(1-benzenesulphonyl-6-chloroindol-2-ylsulphonyl)piperazine starting material was prepared as follows. A solution of 1-benzene sulphonyl-6-chloroindol-2-ylsulphonyl chloride (5.0 g, 12.8 mmol) in dichloromethane (50 ml) was added dropwise to a stirred solution of piperazine (6.62 g, 6 eq.) in dichloromethane (100 ml), and the mixture stirred for a further 4 hrs. giving a yellow solution. This was then evaporated and dried overnight under high vacuum. The residue was purified by flash chromatography using Merck silica (Art. 9385), eluting with dichloromethane containing methanol (06%), to give 1-(1-benzenesulphonyl-6-chloroindol-2-ylsulphonyl)piperazine as an off-white solid (3.68 g, 68% yield); 1H NMR (CDCl3) 2.75 ppm (m, 4H), 3.3 ppm (m, 4H), 7.45 ppm (d, 1H), 7.6 ppm (m, 3H), 7.7 ppm (m, 1H), 7.75 ppm (d, 1H), 8.0 ppm (d, 2H), 8.15 ppm (s, 1H); MS (M+H)+ 440/442.

reactant | 1-benzene sulphonyl-6-chloroindol-2-ylsulphonyl chloride | 12.8 mmol, 5.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=C(C=C12)Cl)S(=O)(=O)Cl | C14H9Cl2NO4S2
reactant | piperazine | 6.62 g, 6 eq. | N1CCNCC1 | C4H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(1-benzenesulphonyl-6-chloroindol-2-ylsulphonyl)piperazine | 3.68 g, 68% yield | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=C(C=C12)Cl)S(=O)(=O)N1CCNCC1 | C18H18ClN3O4S2
